US07655664B2
4-Iodo-6-methoxynicotinaldehyde (0.41 g, 1.6 mmoles), trimethylsilylacetylene (0.35 mL, 2.8 mmol), PdCl2(PPh3)2 (catalytic amount), CuI (catalytic amount), triethylamine (2 mL) and THF (10 mL) were stirred at 60° C. for 2 h. The volatiles were evaporated and the residue was taken up in water and extracted with ether. The organic phase was dried, filtered and concentrated. Purification by column chromatography with EtOAc-heptanes (1:3) as eluent gave 0.25 g (68% yield) of 6-methoxy-4-[(trimethylsilyl)ethynyl]nicotinaldehyde.

reactant | 4-Iodo-6-methoxynicotinaldehyde | 1.6 mmoles, 0.41 g | IC1=CC(=NC=C1C=O)OC | C7H6INO2
reactant | trimethylsilylacetylene | 2.8 mmol, 0.35 mL | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
catalyst | PdCl2(PPh3)2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | [Cu]I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-methoxy-4-[(trimethylsilyl)ethynyl]nicotinaldehyde | 0.25 g, 68% yield | COC1=NC=C(C=O)C(=C1)C#C[Si](C)(C)C | C12H15NO2Si
